data/mechanism_extracts/ChemCommun/10.1039_D4CC05092D.json
{"doi": "10.1039_D4CC05092D", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Asymmetric electrochemical cyclopropanation of α,β-unsaturated aldehydes with malonates via iminium-ion organocatalysis and anodically generated electrophilic iodine species (Michael-initiated ring closure)", "mechanism_family": ["mediator_anodic", "cation_initiated", "electrocatalysis_outer_sphere"], "electrochemical_role": "Anodic oxidation of iodide (Et4NI) to electrophilic iodine species (I+/I2), which iodinates the enamine intermediate; cathode reduces protons (from HFIP) to H2 as the counter half-reaction", "key_intermediates": [{"name": "iminium ion from condensation of diarylprolinol-OTMS catalyst I with cinnamaldehyde (i)", "smiles": null, "role": "reactive"}, {"name": "enamine after Michael addition of dimethyl malonate to iminium (ii)", "smiles": null, "role": "reactive"}, {"name": "Michael adduct aldehyde 4a (hydrolysis product of enamine ii)", "smiles": "O=CC(c1ccccc1)CC(C(=O)OC)C(=O)OC", "role": "transient"}, {"name": "α-iodo iminium ion (iii) from iodination of enamine by electrophilic I+", "smiles": null, "role": "reactive"}, {"name": "cyclopropane-bound iminium ion (iv) after intramolecular SN2 ring closure", "smiles": null, "role": "transient"}, {"name": "electrophilic iodine species (I+ / I2) generated at anode", "smiles": "II", "role": "reactive"}, {"name": "retro-Michael byproduct 5a (ring-opened α,β-unsaturated diester)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Organocatalyst condenses with enal to form an iminium ion that accepts malonate (Michael addition) giving an enamine; the anode oxidizes iodide to electrophilic iodine, which α-iodinates the enamine to an α-iodo iminium; intramolecular enolate displacement of iodide closes the cyclopropane and hydrolysis releases the product and regenerates catalyst, while H2 evolves at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Only minor suppression of 3a (36% NMR yield); TEMPO-adduct 6 isolated (25%); result deemed ambiguous because TEMPO can be oxidized to N-oxoammonium and react with enamine in polar fashion"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Cyclopropane 3a still formed in 38% yield with only 4% of 4a, indicating no quenching of putative enamine radical cation — supports a polar pathway"}, {"name": "pre-synthesized intermediate 4a (stoichiometric)", "smiles": "O=CC(c1ccccc1)CC(C(=O)OC)C(=O)OC", "purpose": "intermediate_trap", "observation": "Under standard electrochemical conditions 4a gave 43% 3a (and 17% 5a); without catalyst still gave 23% 3a — confirms 4a/enamine is on-cycle and ring closure is electrochemically driven"}, {"name": "I2 / NIS (stoichiometric, no current)", "smiles": "II", "purpose": "intermediate_trap", "observation": "No conversion of starting materials and catalyst I decomposed — controlled electrocatalytic generation of I+ is essential to protect catalyst from Grob-type fragmentation"}, {"name": "cyclic voltammetry of components", "smiles": null, "purpose": "redox_probe", "observation": "Iodide oxidizes at +0.19/+0.38 V; enamine derived from 4a+I oxidizes at +0.27 V (between I- peaks); other components have higher potentials — iodide is selectively oxidized first"}, {"name": "no-electricity control", "smiles": null, "purpose": "other", "observation": "Only Michael adduct 4a formed (49%), no cyclopropane — electricity required for ring closure"}, {"name": "no-organocatalyst control", "smiles": null, "purpose": "other", "observation": "No reaction — iminium activation required"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "stoichiometric_intermediate", "cyclic_voltammetry", "isolation_of_intermediate", "on/off_light_or_current"], "evidence_strength": "strong", "notes": "Authors favor a fully polar mechanism (iminium/enamine + electrophilic I+ ionic alkylation), supported by BHT insensitivity, CV showing iodide as the lowest-potential oxidizable species, and ring closure from isolated 4a. An alternative SET pathway via enamine radical cation (oxidation at +0.27 V) is considered possible but disfavored. Side pathways: base-induced retro-Michael of iminium iv gives byproduct 5a; free catalyst can decompose via Grob-type fragmentation when excess electrophilic iodine is present, hence the need for catalytic, electrochemically controlled I+ generation. The reaction comprises two coupled cycles (organocatalytic, temperature-controlled; electrocatalytic, current-controlled) whose rates must be balanced."}
